US05292767
trans-4-ethoxycarbonyl-2-methylthiomethyltetrahydrothiophene (compound No. 18-1)
Diethylether solution of diazomethane (10 molar equivalents) was added to trans-4-ethoxycarbonyl-2-mercaptomethyltetrahydrothiophene (compound No. 15-1, 549 mg) and the mixture was stirred for 4 hours at room temperature. The mixture was concentrated in vacuo and the oil residue was purified by a silica gel column chromatography to give 407 mg (69%) of the titled compound (compound No. 18-1).

reactant | diazomethane | 10 molar | [N+](=[N-])=C | CH2N2
reactant | trans-4-ethoxycarbonyl-2-mercaptomethyltetrahydrothiophene | C(C)OC(=O)[C@H]1C[C@@H](SC1)CS | C8H14O2S2
solvent | Diethylether | C(C)OCC | C4H10O
product | trans-4-ethoxycarbonyl-2-methylthiomethyltetrahydrothiophene | 407 mg, 69% | C(C)OC(=O)[C@H]1C[C@@H](SC1)CSC | C9H16O2S2
